US04472409
5. 4-Trifluoromethyl-2-[(4-methoxy-2-pyridylmethyl)thio]-(1H)-benzimidazole
4.5 g (0.023 mole) of 2-chloromethyl-4-methoxypyridine hydrochloride are added to 5.0 g (0.023 mole) of 4-trifluoromethyl-2-mercaptobenzimidazole, dissolved in 100 ml of ethanol and 23 ml of 2N sodium hydroxide solution, and the obtained mixture is stirred at room temperature for 6 hours. After most of the solvent is stripped off, the residue is extracted with three 50 ml portions of ethyl acetate, the extract is washed with distilled water and dried over sodium sulfate and the solvent is stripped off in vacuo. The solid residue is recrystallized from acetonitrile. Yield: 5.9 g (76%) of title compound, m.p. 146° C.

reactant | 2-chloromethyl-4-methoxypyridine hydrochloride | 0.023 mole, 4.5 g | Cl.ClCC1=NC=CC(=C1)OC
reactant | 4-trifluoromethyl-2-mercaptobenzimidazole | 0.023 mole, 5.0 g | FC(C1=CC=CC=2N=C(NC21)S)(F)F | C8H5F3N2S
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | sodium hydroxide | 2N, 23 ml | [OH-].[Na+]
product | 4-Trifluoromethyl-2-[(4-methoxy-2-pyridylmethyl)thio]-(1H)-benzimidazole | FC(C1=CC=CC=2NC(=NC21)SCC2=NC=CC(=C2)OC)(F)F | C15H12F3N3OS
